US07932252B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(difluoro-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the preparation of N-Aryl-benzenesulfonamides using 4-chloro-2-(difluoro-pyridin-4-yl-methyl)-phenylamine and 4-tert-butyl-benzenesulfonyl chloride. MS: (M+H)=451.

reactant | 4-chloro-2-(difluoro-pyridin-4-yl-methyl)-phenylamine | ClC1=CC(=C(C=C1)N)C(C1=CC=NC=C1)(F)F | C12H9ClF2N2
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(difluoro-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(C1=CC=NC=C1)(F)F | C22H21ClF2N2O2S
